US04680296
1-[3-[4-[Bis-(4-fluorophenyl)hydroxymethyl]piperidinyl]propyl]-1,3-dihydro-2(2H)-benzimidazolone
2.1 g (0.007 mole) of 4-[bis(4-fluorophenyl)hydroxymethyl]piperidine, 1.8 g (0.007 mole) of 1-(1-bromo-3-propyl)-1,3-dihydro-2(2H)-benzimidazolone, 0.85 g (0.008 mole) of Na2CO3 and a few crystals of NaI are heated for 5 h at reflux temperature in 60 ml of methyl isobutyl ketone. The solvent is evaporated off, the residue is taken up with a mixture of water and CH2Cl2, and the organic phase is dried and evaporated down. A solid residue is obtained which is chromatographed on a column of silica (eluent: CH2Cl2/MeOH 97/3, 96/4 and then 94/6). The pure fractions are evaporated down, the evaporation residue is taken up with ether and a white product is filtered off and crystallized from 90 ml of ethyl acetate. M.p.=141°-143° C.

reactant | 4-[bis(4-fluorophenyl)hydroxymethyl]piperidine | 0.007 mole, 2.1 g | FC1=CC=C(C=C1)C(C1CCNCC1)(O)C1=CC=C(C=C1)F | C18H19F2NO
reactant | 1-(1-bromo-3-propyl)-1,3-dihydro-2(2H)-benzimidazolone | 0.007 mole, 1.8 g | BrCCCN1C(NC2=C1C=CC=C2)=O | C10H11BrN2O
reactant | Na2CO3 | 0.008 mole, 0.85 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NaI | [Na+].[I-]
solvent | methyl isobutyl ketone | 60 ml | C(C(C)C)C(=O)C | C6H12O
product | 1-[3-[4-[Bis-(4-fluorophenyl)hydroxymethyl]piperidinyl]propyl]-1,3-dihydro-2(2H)-benzimidazolone | FC1=CC=C(C=C1)C(C1CCN(CC1)CCCN1C(NC2=C1C=CC=C2)=O)(O)C2=CC=C(C=C2)F | C28H29F2N3O2
